US03962259
Reaction of 1,3-dihydrospiro[isobenzofuran-1,4'-piperidine] and α-chloro-p-fluorobutyrophenone ethylene ketal by the method described in Example 6 provides 1,3-dihydro-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine] as a solid, hydrochloride salt, m.p. 215°-217°.

reactant | 1,3-dihydrospiro[isobenzofuran-1,4'-piperidine] | N1CCC2(CC1)OCC1=CC=CC=C12 | C12H15NO
reactant | α-chloro-p-fluorobutyrophenone ethylene ketal | C1COC(C(CC)Cl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
product | 1,3-dihydro-1'-[3-(4-fluorobenzoyl)propyl]spiro[isobenzofuran-1,4'-piperidine] | FC1=CC=C(C(=O)CCCN2CCC3(CC2)OCC2=CC=CC=C23)C=C1 | C22H24FNO2
